US05541349
1. Preparation of (N-t-butylamino)(diphenyl)(2,4-dimethyl-2,4-pentadien-1-yl) silane
To a solution of 0.3238 g (1.12 mmol) of (N-t-butylamino)(chloro)diphenylsilane in 50 mL of THF was added 1.500 g (1.12 mmol) of potassium 2,4-dimethylpentadienide. The reaction mixture was stirred overnight. The solvent was removed, the residue was extracted with pentane and filtered. The pentane was removed in vacuo to give the product as a pale yellow oil. The yield was 0.3633 g 93.0%. 1H NMR (C6D6) δ 7.79 (m, 4H), 7.22 (m, 6H), 5.65 (s, 1H), 5.08 (s, 1H), 4.98 (s, 1H), 2.44 (s, 2H), 1.84 (s, 3H), 1.57 (s, 3H), 1.30 (s, 1H), 1.09(s, 9H), (s, 6H). 13C NMR(C6D6)δ 142.7, 138.5, 136.0, 135.8, 129.6, 128.0, 126.5, 113.7, 50.2, 33.9, 27.9, 25.1, 24.5

reactant | (N-t-butylamino)(chloro)diphenylsilane | 1.12 mmol, 0.3238 g | C(C)(C)(C)N[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H20ClNSi
reactant | potassium 2,4-dimethylpentadienide | 1.12 mmol, 1.500 g | CC(=[CH-])C=C(C)C.[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (N-t-butylamino)(diphenyl)(2,4-dimethyl-2,4-pentadien-1-yl) silane | C(C)(C)(C)N[Si](CC(=CC(=C)C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H31NSi
